US05610144
The operation is carried out in a fashion similar to that described in Example 77, but starting from 0.70 g of methyl (RS)-3-{3-{2-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}mandelate in 7 cm3 of a water/methanol (30/70 by volume) mixture and 0.08 g of potassium hydroxide. The crude product (0.45 g) is dissolved in 8.5 cm3 of a 0.1N aqueous sodium hydroxide solution. The solution thus obtained is washed with 2 times 25 cm3 of ethyl acetate, filtered and acidified to a pH of 2 by addition of a 1N aqueous hydrochloric acid solution. The product precipitated is separated by filtration, washed with 2 times 10 cm3 of water and dried in air. 0.15 g of (RS)-3-{3-{2-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}mandelic acid is thus obtained in the form of a white product, melting at 135° C. [proton NMR (200 MHz, DMSO D6 plus several drops of CD3COOD, δ in ppm, J in Hz), 2 rotamers at room temperature, peak coalescence at 110° C.: characteristic chemical shifts at 110° C. 1.55 (s, 9H, --C(CH3)3); 3.32 and 3.53 (2dd, J=12.5 and 6.5, 2H, S--CH2 --); 3.8 (bd, 1H of N--COCH2 --N); 4.08 (d, J=17.5, 1H, the other H of N--COCH2 --N); 5 (m and s, 2H in total respectively N--CH--COO and Ar--CH--); 6.2 (broad, 1H, --NHCO--); 6.54 (s, 1H, S--CH--N); 7.02 (bd, J=7.5, 1H, in position 4 on CO--NH--Ph); 7.1 to 7.5 (m, 6H, aromatic); 7.94 (dd, J=7.5 and 9, 1H, in position 6 on S--CH--Ph--); 8.5 (broad, --CONH--Ar)], [infrared spectrum (KBr), characteristic bands in cm-1 : 3390, 2980, 2930, 2840, 2700 to 2250 (broad band), 1735, 1650, 1610, 1560, 1490, 1455, 1370, 1230, 1150, 1060, 790, 760, 700].

reactant | methyl (RS)-3-{3-{2-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}mandelate | 0.70 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(C(=O)OC)O)C=CC1)=O)=O | C26H30FN3O7S
reactant | potassium hydroxide | 0.08 g | [OH-].[K+]
solvent | water methanol | 7 cm3 | O.CO
solvent | sodium hydroxide | 0.1N | [OH-].[Na+]
product | (RS)-3-{3-{2-[(2R,4R)-4-tert-butoxycarbonyl-2-(2-fluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}mandelic acid | 0.15 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(C(=O)O)O)C=CC1)=O)=O | C25H28FN3O7S
